US07465837B2
Synthesis of 1,1,1-trifluoro-2-trifluoromethyl-5-vinyloxy-pentan-2-ol (VE-PrHFA)
Preparation of 1,1,1-trifluoro-2-trifluoromethyl-2,5-pentanediol and 1,1,1-trifluoro-2 -trifluoromethyl-2,4-pentanediol: To a 3-necked, 3-L round bottomed flask equipped with an overhead stirrer, digital thermometer and a 1-L constant-pressure addition funnel with a nitrogen inlet was added 974 mL (1.95 mol) of borane-dimethylsulfide complex (2.0 M in tetrahydrofuran). The addition funnel was charged with a solution of 353 g (1.7 mol) of 1,1,1-trifluoro-2-trifluoromethyl-4-penten-2-ol in 400 mL of anhydrous tetrahydrofuran. The flask was cooled and the olefin was added slowly with stirring while maintaining a temperature below 15° C. The mixture was stirred at room temperature for two days after which time it was recooled and 750 mL (2.25 mol) of 3M NaOH was added carefully. The reaction mixture was reduced in volume on a rotary evaporator and subsequently co-evaporated with two 500 mL portions of diethyl ether. The resulting heavy oil was taken up in 300 mL of THF and the solution transferred to a 1-L 3-necked round-bottomed flask equipped with a 250-mL addition funnel, a digital thermometer and a magnetic stir bar. The addition funnel was charged with 250 mL of 30% hydrogen peroxide. The flask was cooled and the hydrogen peroxide added slowly with stirring. After stirring overnight at room temperature, the solution was diluted with 1 L of diethyl ether and adjusted to pH 6 (wet litmus) with 5% HCl. The ether layer was separated and the aqueous layer was extracted with 2×500 mL of ether. The combined organic phases were washed with 2×500 mL of saturated ammonium chloride and brine, dried over MgSO4 and evaporated to a crude yield of 379 g of a 45:55 (2°:1°) mixture of the two diols. The diols were separated by distillation through a 12″ Vigreux, bp 47° C. at 1.0 mm Hg (2° alcohol) and bp 55° C. at 1.0 mm Hg (1° alcohol). The 1° alcohol is a viscous oil while the 2° alcohol is a low melting solid.

reactant | 1,1,1-trifluoro-2-trifluoromethyl-2,5-pentanediol | FC(C(CCCO)(O)C(F)(F)F)(F)F | C6H8F6O2
reactant | 1,1,1-trifluoro-2 -trifluoromethyl-2,4-pentanediol | FC(C(CC(C)O)(O)C(F)(F)F)(F)F | C6H8F6O2
reactant | borane dimethylsulfide | 1.95 mol, 2.0 M, 974 mL | B.CSC
reactant | 1,1,1-trifluoro-2-trifluoromethyl-4-penten-2-ol | 1.7 mol, 353 g | FC(C(CC=C)(O)C(F)(F)F)(F)F | C6H6F6O
reactant | NaOH | 2.25 mol, 3M, 750 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-2-trifluoromethyl-5-vinyloxy-pentan-2-ol | FC(C(CCCOC=C)(O)C(F)(F)F)(F)F | C8H10F6O2
